US04659503
A mixture of 1.2 g of 2-propylpropane-1,3-diol, 2.59 g of 5-(2-pentyl-5-pyridyl)-2-formyl-thiophene (obtainable by formylation of 5-(2-pentyl-5-pyridyl)-thiophene via a Vilsmeier reaction), 0.01 g of p-toluenesulfonic acid and 15 ml of toluene is boiled for 3 hours, using a water separator, cooled, washed with water and evaporated. 5-(2-Pentyl-5-pyridyl)-2-(trans-5-propyl-1,3-dioxan-2-yl)-thiophene is obtained.

reactant | 2-propylpropane-1,3-diol | 1.2 g | C(CC)C(CO)CO | C6H14O2
reactant | 5-(2-pentyl-5-pyridyl)-2-formyl-thiophene | 2.59 g | C(CCCC)C1=NC=C(C=C1)C1=CC=C(S1)C=O | C15H17NOS
reactant | 5-(2-pentyl-5-pyridyl)-thiophene | C(CCCC)C1=NC=C(C=C1)C1=CC=CS1 | C14H17NS
reactant | p-toluenesulfonic acid | 0.01 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(2-Pentyl-5-pyridyl)-2-(trans-5-propyl-1,3-dioxan-2-yl)-thiophene | C(CCCC)C1=NC=C(C=C1)C1=CC=C(S1)[C@@H]1OC[C@H](CO1)CCC | C21H29NO2S
